US08633200B2
A solution of (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.060 g, 0.140 mmol) and 1M NaOH (1 ml, 1.000 mmol) in MeOH (5 mL) was heated at 60° C. for 16 h. Then, the reaction mixture was cooled, neutralized with 1M HCl (1 mL), concentrated and the residue was diluted with Et2O (25 mL), washed with 0.1M NH4OAc (5 mL), brine (5 mL), dried (Na2SO4), filtered and concentrated to give (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (0.055 g, 0.131 mmol, 94% yield) as white solid and 98% ee. 1H NMR (500 MHz, CDCl3) δ: 7.96 (s, 1H), 7.83 (d, J=7.0 Hz, 1H), 7.39-7.30 (m, 2H), 6.81 (s, 1H), 5.46 (br. s., 1H), 3.99 (br. s., 1H), 2.74 (br. s., 3H), 1.69 (d, J=6.4 Hz, 3H), 1.57 (br. s., 3H), 1.27 (s, 9H). LCMS (M+H) calcd for C22H27ClN3O3: 416.17. found: 416.3.

reactant | (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.140 mmol, 0.060 g | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C(C)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C23H28ClN3O3
reactant | NaOH | 1.000 mmol, 1M, 1 ml | [OH-].[Na+]
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.131 mmol, 0.055 g, 94% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C(C)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C22H26ClN3O3
